US07678801B2
N-{3-[2-(4-amino-1-piperidinyl)-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylphenyl}-4-fluoro-3-methylbenzamide
The title compound was prepared as described in Example 2 from N-{3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylphenyl}-4-fluoro-3-methylbenzamide and 1,1-dimethylethyl 4-piperidinylcarbamate: LC-MS m/z 599 (M+H)+, 1.99 min (ret time).

reactant | N-{3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylphenyl}-4-fluoro-3-methylbenzamide | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C=CC2C)NC(C2=CC(=C(C=C2)F)C)=O)S(=O)(=O)C)=O | C29H21F3N4O4S
reactant | 1,1-dimethylethyl 4-piperidinylcarbamate | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
product | N-{3-[2-(4-amino-1-piperidinyl)-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylphenyl}-4-fluoro-3-methylbenzamide | NC1CCN(CC1)C=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C=2C=C(C=CC2C)NC(C2=CC(=C(C=C2)F)C)=O | C33H29F3N6O2
